US07989644B2
11a) 2-Bromodibenzofuran
Bromine (23.8 g, 0.156 mol) in acetic acid (5 g) is added at 50° C. to a solution of dibenzofuran (25 g, 0.149 mol) in acetic acid (230 g). The mixture is then stirred at 50° C. for 4 hours. The reaction mixture is cooled to room temperature and poured into H2O. The orange solid is washed with Na2S2O3 aq. and H2O. The crude product is then purified by recrystallization from toluene/CH2Cl2, wherein the pure product is obtained as a white solid (13% yield).

reactant | Bromine | 0.156 mol, 23.8 g | BrBr | Br2
reactant | dibenzofuran | 0.149 mol, 25 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | H2O | O | H2O
solvent | acetic acid | 5 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 230 g | C(C)(=O)O | C2H4O2
product | 2-Bromodibenzofuran | 13% yield | BrC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7BrO
